US06953806B2
In analogy to the method described in example 12.1, trans-N-[4-(4-bromo-(E)-but-2-enyloxymethyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide was reacted with (2-hydroxy-ethyl)-methyl-amine in N,N-dimethylacetamide at room temperature to yield trans-N-(4-{4-[(2-hydroxy-ethyl)-methyl-amino]-(E)-but-2-enyloxymethyl}-cyclohexylmethyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide as light yellow solid, MS: 493 (MH+).

reactant | trans-N-[4-(4-bromo-(E)-but-2-enyloxymethyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | BrC/C=C/COC[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C20H27BrF3NO3S
reactant | (2-hydroxy-ethyl)-methyl-amine | OCCNC | C3H9NO
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-N-(4-{4-[(2-hydroxy-ethyl)-methyl-amino]-(E)-but-2-enyloxymethyl}-cyclohexylmethyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | OCCN(C/C=C/COC[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C23H35F3N2O4S
